US08236319B2
Ethyl 3-(acetylthio)-3-cyanopropanoate
(Z)-ethyl 3-cyanoacrylate (5.01 g, 40.00 mmol) in 80 ml of THF at −20° C. was added the solution of thiol acetic acid (5.0 ml, 70.15 mmol) and DIPEA (16.0 ml, 92.03 mmol) in 20 ml of THF in 30 min. The reaction was kept at −20° C. for 4 hr then room temperature overnight. The mixture was concentrated, diluted with CH2Cl2, washed with saturated NaHCO3, dried over MgSO4, filtered, evaporated and purified by SiO2 chromatography (1:4 EtAC/Hexane) to afford 5.22 g (65%) of the title compound. Rf=0.25 (1:4 EtAC/Hexane); 1H NMR (CDCl3), 4.44 (m, 1H), 4.11 (dd, 2H, J=7.1, 14.3 Hz), 3.38 (m, 1H), 3.15 (m, 1H), 2.17 (s, 3H), 1.19 (t, 3H, J=7.2 Hz); 13C NMR 194.12, 173.21, 119.82, 61.35, 33.52, 30.08, 14.62; MS m/z+ 225.9 (MW+Na), m/z− 201.7 (MW−H).

reactant | (Z)-ethyl 3-cyanoacrylate | 40.00 mmol, 5.01 g | C(#N)\C=C/C(=O)OCC | C6H7NO2
reactant | thiol acetic acid | 70.15 mmol, 5.0 ml | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | DIPEA | 92.03 mmol, 16.0 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | THF | 80 ml | C1CCOC1 | C4H8O
reactant | THF | 20 ml | C1CCOC1 | C4H8O
product | Ethyl 3-(acetylthio)-3-cyanopropanoate | 5.22 g, 65% | C(C)(=O)SC(CC(=O)OCC)C#N | C8H11NO3S
